US07795288B2
[5-(4-Methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine
The title compound is prepared as described in Example 1 for (5-phenyl-thiazol-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine but using (4-methoxy-phenyl)-acetaldehyde. Title compound: ES-MS: 396.0 [M+H]+; single peak at tR=6.36 min (System 1); R4=0.28 (CH2Cl2/MeOH, 80/20).

reactant | (5-phenyl-thiazol-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | C1(=CC=CC=C1)C1=CN=C(S1)NC1=CC=C(C=C1)OCCN1CCCC1 | C21H23N3OS
reactant | (4-methoxy-phenyl)-acetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | [5-(4-Methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | COC1=CC=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)OCCN1CCCC1 | C22H25N3O2S
